US05614633
A mixture of 3.1 g of 2,2-bisfluoromethyl-6-heptafluoropropyl-2H-1-benzopyran, 4.20 g of m-chloroperbenzoic acid (70%) and 50 ml of methylene chloride was stirred at room temperature for 27 hours. After removal of the separated crystal by filtration, the filtrate was washed with saturated sodium hydrogen carbonate solution and saturated saline solution, and dried with sodium sulfate. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, hexane:CH2Cl2 =5:1) to obtain 1.44 g of oily 3,4-epoxy-2,2-bisfluoromethyl-6-heptafluoropropyl-3,4-dihydro-2H-1-benzopyran represented by the following formula.

reactant | 2,2-bisfluoromethyl-6-heptafluoropropyl-2H-1-benzopyran | 3.1 g | FCC1(OC2=C(C=C1)C=C(C=C2)C(C(C(F)(F)F)(F)F)(F)F)CF | C14H9F9O
reactant | m-chloroperbenzoic acid | 4.20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,4-epoxy-2,2-bisfluoromethyl-6-heptafluoropropyl-3,4-dihydro-2H-1-benzopyran | 1.44 g | O1C2C(OC3=C(C21)C=C(C=C3)C(C(C(F)(F)F)(F)F)(F)F)(CF)CF | C14H9F9O2
